US05155220
To a mixture of 52 g 2-propylpentanol and 86 g of p-toluenesulfonic acid in 175 ml of chloroform was added at 0°-3° C. and under N2 -atmosphere 48 g of pyridine. The mixture was kept at 0° C. for 30 minutes and at room temperature for 19 hrs. After cooling the reaction mixture, 3M HCl (300 ml) was added. The organic phase was separated and washed with water and rine. Drying with Na2SO4 and evaporation gives 110 g of 2-propylpentyl tosylate.

reactant | 2-propylpentanol | 52 g | C(CC)C(CO)CCC | C8H18O
reactant | p-toluenesulfonic acid | 86 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | HCl | 3M, 300 ml | Cl | ClH
solvent | chloroform | 175 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-propylpentyl tosylate | 110 g | S(=O)(=O)(OCC(CCC)CCC)C1=CC=C(C)C=C1 | C15H24O3S
